US07531537B2
t-Butyl(4-benzyloxycarbonylamino-2-cyanophenoxy)acetate (100 mg) obtained in Reference Example 50(2) is dissolved in N,N-dimethylformamide (3 ml) and thereto is added 60% oleaginous sodium hydride (12.5 mg). After the mixture is stirred for 20 minutes at room temperature, methyl iodide (24.4 μl) is added thereto dropwise and the mixture is further stirred for one hour. To the reaction solution is poured saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer is washed successively with water and saturated brine, dried over sodium sulfate and evaporated to remove the solvent. The resulting residue is purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1 followed by 3/1) to give t-butyl[4-(N-benzyloxycarbonyl-N-methylamino)-2-cyanophenoxy]acetate (91 mg).

reactant | t-Butyl(4-benzyloxycarbonylamino-2-cyanophenoxy)acetate | 100 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)C#N)=O | C21H22N2O5
reactant | sodium hydride | 12.5 mg | [H-].[Na+]
reactant | methyl iodide | 24.4 μl | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | t-butyl[4-(N-benzyloxycarbonyl-N-methylamino)-2-cyanophenoxy]acetate | 91 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)N(C)C(=O)OCC1=CC=CC=C1)C#N)=O | C22H24N2O5
